US07601716B2
1-Benzyl-7-pyridin-3-yl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-Benzyl-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (30 mg) was reacted with pyridine 3-boronic acid as in General Procedure 4A to give the title compound as a light yellow film (23% yield). M.p. (film), LCMS: m/z=303.40 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.41-3.44 m, 2H), 3.60-3.63 (m, 2H), 4.49 (s, 2H), 6.80 (s, 1H), 5.40 (bs, 1H), 6.80 (s, 1H), 7.27-7.42 (m, 5H), 7.64 (s, 1H), 7.65 (d, J=7.8 Hz, 1H), 8.48 (d, J=4.8 Hz, 1H), 8.63 (s, 1H).

reactant | 1-Benzyl-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 30 mg | C(C1=CC=CC=C1)N1C2=C(NCC1)N=CC(=C2)I | C14H14IN3
reactant | pyridine 3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 1-Benzyl-7-pyridin-3-yl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 23% yield | C(C1=CC=CC=C1)N1C2=C(NCC1)N=CC(=C2)C=2C=NC=CC2 | C19H18N4
